US04052514
4-Acetyl-2-amino-2',4'-difluorobiphenyl prepared as described in Example 1 was subjected to the Schiemann reaction using fluoboric acid to give 4-acetyl-2,2',4'-trifluorobiphenyl, m.p. 92°-94° C. By a similar method, starting from the appropriate products of Example 1, there were obtained 4-acetyl-4'-chloro-2,2'-difluorobiphenyl, m.p. 69°-70° C. and 4-acetyl-4'-bromo-2,2'-difluorobiphenyl, m.p. 75°-76° C.

reactant | 4-Acetyl-2-amino-2',4'-difluorobiphenyl | C(C)(=O)C1=CC(=C(C=C1)C1=C(C=C(C=C1)F)F)N | C14H11F2NO
reactant | fluoboric acid | [H+].[B-](F)(F)(F)F
product | 4-acetyl-2,2',4'-trifluorobiphenyl | C(C)(=O)C1=CC(=C(C=C1)C1=C(C=C(C=C1)F)F)F | C14H9F3O
